US04916145
(R,S)-Z]-1-methyl-4-(3-pyridinyl)-3-butenamine
As in Example 133, hydrolysis of 3.88 g of (R,S)-Z]-[1-methyl-4-(3-Pyridinyl)-3-butenyl]carbamic acid 1,1-dimethylethyl ester in 50 mL of 1N HCl yielded, after the usual work-up and evaporative distillation of the product (100-120° C./0.1 mm), 1.7 g of [(R,S)-Z]-1-methyl-4-(3-pyridinyl)-3-butenamine as an oil.

reactant | [1-methyl-4-(3-Pyridinyl)-3-butenyl]carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC(CC=CC=1C=NC=CC1)C)=O | C15H22N2O2
solvent | HCl | 1N, 50 mL | Cl | ClH
product | 1-methyl-4-(3-pyridinyl)-3-butenamine | CC(CC=CC=1C=NC=CC1)N | C10H14N2
